US09233098B2
2. Preparation of tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridin-1-carboxylate
tert-Butyl 3-methyl-1H-pyrazolo[3,4-b]pyridin-1-carboxylate (6.6 g, 28.3 mmol) was added into trifluoromethylbenzene (300 mL), and heated to 75° C. Then NBS (5.04 g, 28.3 mmol) was added, and after 15 minutes AIBN (465 mg, 2.8 mmol) was added, and heated to 80° C. and reacted for 1 hour. It was cooled slowly to room temperature and reacted for 12 hours. It was filtered to remove solid. The filtrate was rotate evaporated to dryness, and chromatographed on a column (PE:EA=25:1) to obtain a white solid 730 mg, at a yield of 8.3%.

reactant | tert-Butyl 3-methyl-1H-pyrazolo[3,4-b]pyridin-1-carboxylate | 28.3 mmol, 6.6 g | CC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H15N3O2
reactant | NBS | 28.3 mmol, 5.04 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 2.8 mmol, 465 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | trifluoromethylbenzene | 300 mL | FC(F)(F)C1=CC=CC=C1 | C7H5F3
product | tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridin-1-carboxylate | 730 mg, yield of 8.3% | BrCC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H14BrN3O2
